US06013764
Isobutyl chloroformate (13.66 g, 100 mmol) was added dropwise over 15 min at -15 to -10° C. to a solution of Boc-Lys(Z)-OH (38.04 9, 100 mmol) in ethyl acetate (200 g). Another portion of ethyl acetate was added (10 g) and the mixture was stirred for 15 min. 4-Methylmorpholine (10.12 g, 100 mmol) was added dropwise over 15 min at -15 to -10° C., followed by an additional portion of ethyl acetate (10.0 g) and the resulting mixture was stirred for 2 h. In a separate reaction vessel 4-methylmorpholine (10.12 g, 100 mmol) was added dropwise over 15 min, to a solution of H-Leu-Leu-OMe·HCl (29.48 g, 100 mmol) in ethyl acetate (200.0 g) at -23 to -10° C. An additional portion of ethyl acetate (10.0 g) was added followed by the addition of the formed anhydride over 30 to 45 min at a temperature of -8 to -10° C. Another portion of ethyl acetate (30.0 g) was added and the resulting mixture was stirred for 1.5 h. Ethyl acetate (50.00 g) was added, the solution was filtered and the resulting organic filtrate was concentrated in vacuo. The resulting solid was recrystallized from petroleum ether (bp 100 to 125) to give Boc-Lys(Z)-Leu-Leu-OMe (55.9 g, 90.2%).

reactant | Isobutyl chloroformate | 100 mmol, 13.66 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Boc-Lys(Z)-OH | 100 mmol | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H28N2O6
reactant | 4-Methylmorpholine | 100 mmol, 10.12 g | CN1CCOCC1 | C5H11NO
reactant | 4-methylmorpholine | 100 mmol, 10.12 g | CN1CCOCC1 | C5H11NO
reactant | H-Leu-Leu-OMe·HCl | 100 mmol, 29.48 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC.Cl
solvent | ethyl acetate | 200 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200.0 g | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 50.00 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30.0 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10.0 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10.0 g | C(C)(=O)OCC | C4H8O2
product | Boc-Lys(Z)-Leu-Leu-OMe | 55.9 g, 90.2% | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C32H52N4O8
